US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-methylaminocarbonyl-5-phenylisoxazole
3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-carboxy-5-phenylisoxazole (0.2 g) and methylamine (30% methanol solution, 0.12 ml) were subjected to reaction and post-treatment in a similar manner to that described in Example 20(a) to obtain the title compound (0.18 g, 87%) as a colorless powder.

reactant | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-carboxy-5-phenylisoxazole | 0.2 g | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1C(=O)O)C1=CC=CC=C1 | C17H20N2O6
reactant | methylamine | 0.12 ml | CN | CH5N
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-methylaminocarbonyl-5-phenylisoxazole | 0.18 g, 87% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1C(=O)NC)C1=CC=CC=C1 | C18H23N3O5
